US07196199B2
(2) (S)-α-(2′-(2-hydroxy-3-(4-(naphthalen-2-yl)piperidino)propyloxy)benzylidene)-γ-valerolactone 1/5 hydrate
Dimethylformamide (70 ml) and potassium carbonate (9.5 g) were added to α-(2′-hydroxybenzylidene)-γ-valerolactone (7 g) and (S)-glycidyl nosylate (8.9 g) was added. The mixture was stirred at 40° C. for 2 hr. The reaction mixture was concentrated under reduced pressure. Water was added and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give an oil. (7.5 g). By the reaction using this product (1.0 g) and 4-(naphthalen-2-yl)piperidine (1.0 g) in methanol (50 ml) in the same manner as in Example 307, an oily title compound (0.8 g) was obtained.

reactant | potassium carbonate | 9.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | α-(2′-hydroxybenzylidene)-γ-valerolactone | 7 g | OC1=C(C=C2C(=O)OC(C2)C)C=CC=C1 | C12H12O3
reactant | (S)-glycidyl nosylate | 8.9 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | 4-(naphthalen-2-yl)piperidine | 1.0 g | C1=C(C=CC2=CC=CC=C12)C1CCNCC1 | C15H17N
solvent | methanol | 50 ml | CO | CH4O
solvent | Dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | (S)-α-(2′-(2-hydroxy-3-(4-(naphthalen-2-yl)piperidino)propyloxy)benzylidene)-γ-valerolactone | 0.8 g | OC(COC1=C(C=C2C(=O)O[C@H](C2)C)C=CC=C1)CN1CCC(CC1)C1=CC2=CC=CC=C2C=C1 | C30H33NO4
